US07935688B2
(1) Synthesis of (3-bromo-4-methoxy-phenyl)-acetic Acid Methyl Ester
Trimethylsilyldiazomethane (2 M solution in diethyl ether, 0.306 mL, 0.612 mmol) was added to a solution of (3-bromo-4-methoxy-phenyl)-acetic acid (100 mg, 0.408 mmol) in methanol (1 mL) and toluene (4 mL), and the mixture was stirred at room temperature for 10 minutes. Acetic acid was added to the reaction mixture to terminate the reaction, and then the mixture was concentrated under reduced pressure to give the target compound as a colorless oil (100 mg, 95%).

reactant | Trimethylsilyldiazomethane | 0.612 mmol, 2 M, 0.306 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | (3-bromo-4-methoxy-phenyl)-acetic acid | 0.408 mmol, 100 mg | BrC=1C=C(C=CC1OC)CC(=O)O | C9H9BrO3
reactant | Acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 1 mL | CO | CH4O
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | (3-bromo-4-methoxy-phenyl)-acetic Acid Methyl Ester | 100 mg, 95% | COC(CC1=CC(=C(C=C1)OC)Br)=O | C10H11BrO3
